US04283334
A 6.6 g. portion of p-chloropropiophenone is dissolved in 150 ml. of dichloromethane and 100 mg. of m-chlorobenzoic acid are added. The solution is stirred as a mixture of 6.0 g. of bromine in 50 ml. of dichloromethane is added dropwise. The solution is stirred for 2 hours, taken to dryness in vacuo and the oil is dissolved in 100 ml. of acetone and clarified, providing an acetone solution of 2-bromo-4'-chloropropiophenone. A 50 ml. portion of this acetone solution is added to a stirred solution of 3.0 g. of hexahydro-1,3-diazocine-2(1H)-thione in 500 ml. of acetone. The mixture is stirred for 18 hours, the solid is collected, washed with 100 ml. of acetone and dried in vacuo, giving 1.6 g. of the desired product, m.p. 212°-213° C. (dec.).

reactant | p-chloropropiophenone | ClC1=CC=C(C=C1)C(CC)=O | C9H9ClO
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | m-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | bromine | BrBr | Br2
solvent | acetone | CC(=O)C | C3H6O
product | 2-bromo-4'-chloropropiophenone | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
